US08080552B2
i) 4-Chloro-6-methylsulfanyl-pyrimidine
To a solution of 4,6-dichloro-pyrimidine (10.0 g, 67 mmol) in THF (55 ml), sodium thiomethylate (5.175 g, 74 mmol) is added under inert gas atmosphere. The reaction mixture is stirred at 60° C. overnight. After cooling down to r.t., the reaction mixture is diluted with ethyl acetate and water (100 ml each). The organic phase is removed and the aqueous phase is extracted with ethyl actetate. The combined organic phases are washed and dried, and the solvent is evaporated to give 9.74 g (90%) of a pale yellow solid (contains ca. 9% of starting material and ca. 9% of 4,6-dimethylsulfanyl-pyrimidine) which is used without any further purification.

reactant | 4,6-dichloro-pyrimidine | 67 mmol, 10.0 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | sodium thiomethylate | 74 mmol, 5.175 g | C[S-].[Na+]
solvent | THF | 55 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | 4-Chloro-6-methylsulfanyl-pyrimidine | 9.74 g | ClC1=NC=NC(=C1)SC | C5H5ClN2S
